US07572809B2
Similar procedure as described in example 343a was used, starting from 3-Fluoro-4-(2-methoxy-ethoxy)-benzaldehyde and malonic acid to give 3-[3-Fluoro-4-(2-methoxy-ethoxy)-phenyl]-acrylic acid. LC-MS: m/e 241 (MH+).

reactant | 3-Fluoro-4-(2-methoxy-ethoxy)-benzaldehyde | FC=1C=C(C=O)C=CC1OCCOC | C10H11FO3
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
product | 3-[3-Fluoro-4-(2-methoxy-ethoxy)-phenyl]-acrylic acid | FC=1C=C(C=CC1OCCOC)C=CC(=O)O | C12H13FO4
